US04203987
2,3,4,4a-Tetrahydro-8-Trifluoromethyl-3-[2-(2-Piperidinyl)-Ethyl]-1H-Pyrazino[1,2-a]Quinoxalin-5(6H)-One
A mixture of 5 g. (0.014 mole) of 2,3,4,4a-tetrahydro-3-[2-(2-pyridinyl)ethyl]-8-(trifluoromethyl)-1H-pyrazino[1,2-a]quinoxalin-5(6H)-one, 60 ml. of ethanol, 120 ml. of water, 12 ml. of concentrated hydrogen chloride and 1 g. of platinum oxide catalyst is hydrogenated in a Parr apparatus for 2 hours. The catalyst is filtered and the solvents removed. The residue was crystallized from ethanol and recrystallized from methanol to yield 4.5 g. of the title compound as the dihydrochloride salt, m.p. 283°-286° C. (dec.).

reactant | 2,3,4,4a-tetrahydro-3-[2-(2-pyridinyl)ethyl]-8-(trifluoromethyl)-1H-pyrazino[1,2-a]quinoxalin-5(6H)-one | 0.014 mole | N1=C(C=CC=C1)CCN1CC2N(C3=CC=C(C=C3NC2=O)C(F)(F)F)CC1 | C19H19F3N4O
reactant | ethanol | C(C)O | C2H6O
reactant | hydrogen chloride | Cl | ClH
catalyst | platinum oxide | [Pt]=O
solvent | water | O | H2O
product | 2,3,4,4a-Tetrahydro-8-Trifluoromethyl-3-[2-(2-Piperidinyl)-Ethyl]-1H-Pyrazino[1,2-a]Quinoxalin-5(6H)-One | FC(C=1C=C2NC(C3N(C2=CC1)CCN(C3)CCC3NCCCC3)=O)(F)F | C19H25F3N4O
